US08202895B2
tert-Butyl {(phenylsulphonyl)[3-(trifluoromethyl)phenyl]methyl}carbamate
A quantity of 4.49 g (38.29 mmol) of tert-butyl carbamate and 12.57 g (76.57 mmol) of sodium benzenesulphinate were introduced in 110 ml of methanol/water 1:2 and admixed in succession with 10 g (57.43 mmol) of 3-(trifluoromethyl)benzenecarbaldehyde and 2.87 ml (76.09 mmol) of formic acid. The mixture was stirred at RT for 30 h. The precipitated product was isolated by filtration, washed in succession with water and diethyl ether and sucked dry. Further drying in an HV gave 11.2 g (47% of theory) of the title compound.

reactant | tert-butyl carbamate | 38.29 mmol, 4.49 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | sodium benzenesulphinate | 76.57 mmol, 12.57 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 3-(trifluoromethyl)benzenecarbaldehyde | 57.43 mmol, 10 g | FC(C=1C=C(C=CC1)C=O)(F)F | C8H5F3O
reactant | formic acid | 76.09 mmol, 2.87 ml | C(=O)O | CH2O2
solvent | methanol water | 110 ml | CO.O
product | tert-Butyl {(phenylsulphonyl)[3-(trifluoromethyl)phenyl]methyl}carbamate | C1(=CC=CC=C1)S(=O)(=O)C(C1=CC(=CC=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C19H20F3NO4S
